US06326516B1
To a solution of tert-butyl 3-({[4-(2-butynyloxy)phenyl]-sulfonyl}amino)propanoate (1.0 g, 2.83 mmol) in dimethylformamide (5 mL) at 0° C. was added sodium hydride (3.39 mmol) followed by iodomethane (211 uL, 3.39 mmol). After 72 hours the reaction mixture was diluted with ethyl acetate and washed with water and brine and dried over anhydrous sodium sulfate. Filtration and concentration in vacuo gave tert-butyl-3-[{[4-(2-butynyloxy)phenyl]-sulfonyl}(methyl)amino]propanoate (1.0 g) as a colorless oil. Electrospray Mass Spec 368.2 (M+H)+.

reactant | tert-butyl 3-({[4-(2-butynyloxy)phenyl]-sulfonyl}amino)propanoate | 2.83 mmol, 1.0 g | C(C#CC)OC1=CC=C(C=C1)S(=O)(=O)NCCC(=O)OC(C)(C)C | C17H23NO5S
reactant | sodium hydride | 3.39 mmol | [H-].[Na+]
reactant | iodomethane | 3.39 mmol, 211 uL | IC | CH3I
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-butyl-3-[{[4-(2-butynyloxy)phenyl]-sulfonyl}(methyl)amino]propanoate | 1.0 g | C(C)(C)(C)OC(CCN(C)S(=O)(=O)C1=CC=C(C=C1)OCC#CC)=O | C18H25NO5S
